US03937833
A mixture of 35 g (0.08 mole) of 2,8-bis(5-chlorovaleryl)phenoxathiin, 2 g potassium iodide, 100 ml piperidine and 100 ml tetrahydrofuran is heated for 24 hours with stirring in a Parr bomb at 110°C. After cooling the mixture is filtered and washed with tetrahydrofuran, and the filtrate is evaporated to dryness. The residue is cooled and diluted with water. The mixture is extracted twice with ether, the ether extracts combined and filtered. The filtrate is evaporated to dryness, cooled and diluted with pentane followed by filtering off of the solid, washing with pentane and drying. The residue is recrystallized from isopropanol to yield 2,8-bis(5-piperidinovaleryl)phenoxathiin, M.P. 128.5°-129.5°C.

reactant | 2,8-bis(5-chlorovaleryl)phenoxathiin | 0.08 mole, 35 g | ClCCCCC(=O)C1=CC=2SC3=CC(=CC=C3OC2C=C1)C(CCCCCl)=O | C22H22Cl2O3S
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | piperidine | 100 ml | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,8-bis(5-piperidinovaleryl)phenoxathiin | N1(CCCCC1)CCCCC(=O)C1=CC=2SC3=CC(=CC=C3OC2C=C1)C(CCCCN1CCCCC1)=O | C32H42N2O3S
